US05616586
9-Bromo-5-(o-hydroxyphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 5 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (300 mg, 0.88 mmol) and o-aminophenol (110 mg, 1 mmol) to give 375 mg of the title compound (98%): mp 155° C. (dec); 1H NMR (270 MHz, DMSO-d6) δ12.07 (s, 1H), 9.71 (bs, 1H), 9.36 (s, 1H), 7.72 (d, 1H, J=7.2 Hz), 7.24 (bs, 1H), 7.17 (bs, 1H), 6.95 (dt, 1H, J=2, 7.2 Hz), 6.85 (dd, 1H, J=2, 7.2 Hz), 6.76 (dt, 1H, J=7.2, 2 Hz), 5.17~5.26 (m, 1H), 3.14 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.80 (dm, 1H, J=17.1 Hz), 2.78 (dd, 1H, J=14.4, 9 Hz), 2.64 (dd, 1H, J=14.4, 4.5 Hz), 2.10 (dm, 1H, J=13.5 Hz), 1.78~1.92 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.88 mmol, 300 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | o-aminophenol | 1 mmol, 110 mg | NC1=C(C=CC=C1)O | C6H7NO
product | 9-Bromo-5-(o-hydroxyphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 375 mg, 98% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=C(C=CC=C2)O)=O | C19H16BrN3O4
